* System PDN TRAN — VRM / board / package / die load-step
* I_avg=3.372727e-03 idle=1.011818e-03 peak=1.349091e-02

V_VRM n_vrm_src 0 DC 1.1
R_VRM n_vrm_src n_vrm 0.015
L_VRM n_vrm n_vrm_l 2e-09
C_VRM n_vrm_l 0 4.7e-05
R_ESR_VRM n_vrm_l n_board_in 0.008

R_PLANE n_board_in n_board 0.005
L_PLANE n_board n_board_l 1e-09
C_BULK n_board_l 0 2.2e-05
R_ESR_BULK n_board_l n_board_mid 0.012
C_HF n_board_mid 0 1e-06
R_ESR_HF n_board_mid n_board_out 0.02
L_VIA n_board_out n_pkg_in 5e-10

R_PKG n_pkg_in n_pkg 0.04
L_PKG n_pkg n_pkg_l 3e-10
C_PKG n_pkg_l 0 2e-10
R_BUMP n_pkg_l n_die_pre 0.00035714285714285714
L_BUMP n_die_pre n_die 3.5714285714285716e-12

C_DIE n_die 0 5e-10

I_DIE n_die 0 PULSE(0.0010118181818181817 0.01349090909090909 20n 2e-09 2e-09 8e-08 1.0)

.control
set filetype=ascii
tran 1e-10 2e-07
wrdata /workspace/tools/OpenROAD-flow-scripts/flow/results/nangate45/gcd/learn/system_pdn/tran v(n_vrm_l) v(n_board_out) v(n_pkg_l) v(n_die)
quit
.endc
.end
